US07645789B2
To a solution of N-tert-butyl-4-nitroaniline (1 g, 5.1 mmol) in AcOH (5 mL) was added Br2 (0.86 g, 54 mmol) dropwise at 15° C. After addition, the mixture was stirred at 30° C. for 30 min and then filtered. The filter cake was basified to pH 8-9 with aqueous NaHCO3. The aqueous layer was extracted with EtOAc (10 mL×3). The combined organic layers were washed with water, brine, dried over Na2SO4 and concentrated under vacuum to give (2-bromo-4-nitro-phenyl)-tert-butyl-amine (0.6 g, 43%). 1H-NMR (CDCl3, 400 MHz) δ 8.37 (dd, J=2.4 Hz, 1H), 8.07 (dd, J=2.4, 9.2 Hz, 1H), 6.86 (d, J=9.2 Hz, 1H), 5.19 (brs, 1H), 1.48 (s, 9H).

reactant | N-tert-butyl-4-nitroaniline | 5.1 mmol, 1 g | C(C)(C)(C)NC1=CC=C(C=C1)[N+](=O)[O-] | C10H14N2O2
reactant | Br2 | 54 mmol, 0.86 g | BrBr | Br2
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | (2-bromo-4-nitro-phenyl)-tert-butyl-amine | 0.6 g, 43% | BrC1=C(C=CC(=C1)[N+](=O)[O-])NC(C)(C)C | C10H13BrN2O2
